US03941804
6.6 ml (0.100 mol) of chlorosulphonic acid are cooled in an ice bath to 4°C whilst stirring, and 3.35 g (0.017 mol) of 2-(2-butyramido-ethyl)-thiophene are then added over the course of 15 minutes in such a way that the reaction temperature does not rise above 8°C. The ice bath is then removed and the reaction mixture is stirred for 30 minutes at 28°-30°C and then poured, whilst stirring, onto 100 g of ice under which there is a layer of 50 ml of methylene chloride. The methylene chloride phase is separated off and the aqueous phase is extracted with a further 50 ml of methylene chloride. The combined extracts are washed with 50 ml of concentrated sodium chloride solution, dried over sodium sulphate and evaporated at 40°C bath temperature with the aid of a rotary evaporator. The crude 5-(2-butyramido-ethyl)-2-thiophenesulphonyl chloride is obtained.

reactant | chlorosulphonic acid | 0.100 mol, 6.6 ml | ClS(=O)(=O)O | ClHO3S
reactant | 2-(2-butyramido-ethyl)-thiophene | 0.017 mol, 3.35 g | C(CCC)(=O)NCCC=1SC=CC1 | C10H15NOS
product | 5-(2-butyramido-ethyl)-2-thiophenesulphonyl chloride | C(CCC)(=O)NCCC1=CC=C(S1)S(=O)(=O)Cl | C10H14ClNO3S2
